US06664259B2
N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-cyclopropanyl urea
Under Ar, the mixture of cyclopropanecarboxylic acid (500 mg, 5.81 mmol), diphenylphosphoryl azide (1.58 g, 5.81 mmol), and triethyl amine (0.81 mL, 5.8 mmol) in 3 mL of N,N-dimethyl-formamide was heated to 80° C. for 3 hours. The mixture was cooled to room temperature, 3-amino-6-chloro-2-hydroxybenzenesulfonamide (200 mg, 0.89 mmol) was added. The resulting mixture was stirred at room temperature for 20 hours. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (74 mg, 27%). LC-MS (m/z) 306.2 (M+).

reactant | cyclopropanecarboxylic acid | 5.81 mmol, 500 mg | C1(CC1)C(=O)O | C4H6O2
reactant | diphenylphosphoryl azide | 5.81 mmol, 1.58 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | 5.8 mmol, 0.81 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.89 mmol, 200 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
solvent | N,N-dimethyl-formamide | 3 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-cyclopropanyl urea | 74 mg, 27% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1CC1)O | C10H12ClN3O4S
